2141-11-25 13:47:00 Physician Attending Progress Note
Chief Complaint: hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2141-11-24**] 10:24 PM
   on arrival
 DIALYSIS CATHETER - START [**2141-11-24**] 10:26 PM
   left abd peritoneal diaysis catheter
   PD fluid WBC 180's
   Placed on home regimen - SBP came down to 180 but DBP 120's.
   For HD in ICU this AM.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Heparin Sodium - [**2141-11-24**] 11:17 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-25**] 01:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 86 (86 - 113) bpm
   BP: 213/129(142) {160/111(131) - 220/139(158)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    789 mL
                                                                    155 mL
   PO:
                                                                    580 mL
             TF:
   IVF:
                                                                    209 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    875 mL
   Urine:
                                                                    100 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    689 mL
                                                                   -720 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   217 K/uL
   89 mg/dL
   4.5 mg/dL
   25 mEq/L
   5.1 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   30.4 %
   5.8 K/uL
        [image002.jpg]
                            [**2141-11-25**]  04:38 AM
   WBC
   5.8
   Hct
   30.4
   Plt
   217
   Cr
   4.5
   TropT
   0.07
   Glucose
   89
   Other labs: PT / PTT / INR:18.5/150.0/1.7, CK / CKMB /
   Troponin-T:33//0.07, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 KNOWLEDGE DEFICIT
 INEFFECTIVE COPING
 .H/O DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 CHRONIC PAIN
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   24yo F with SLE, ESRD on HD and malignant hypertension presents with
   abdominal pain and headache this morning and admitted for hypertensive
   urgency.
   .
   1. Hypertensive Urgency: BP elevated on arrival to 260/130. Pt reports
   taking all medication as prescribed.  Differential includes
   hypertension secondary to abdominal pain, pheochromocytoma, [**Location (un) 6367**]
   disease.  Pt denies drug use including cocaine, amphetamines.  Had HD
   yesterday so volume overload is less likely.  Likely has an anxiety
   component precipitating hypertension.  Tox screen negative.
   - continue PO Labetolol 400mg TID, Hydralazine 100mg PO q8H, Nifedipine
   90mg PO qday, Clonidine
   - IV Hydralazine for goal BP < 180/100
   - serum metanephrines pending from last admission
   2. Abdominal Pain: Extensive prior workup unrevealing.  KUB done today
   without free air or evidence of SBO.  LFTs normal. Contributing to
   abdominal pain can be narcotic use, ascites with potential for SBP or
   infection.  Pt had recent CT scan which did not show source of
   abdominal pain. Cell counts show polys of 180.  Gram stain negative for
   organisms.
   - consider starting SBP treatment per renal; will f/u renal recs
   - consider pulling PD catheter depending on results and per renal team
   - per patient, pain best controlled with Dilaudid which she takes at
   home, will attempt PO Dilaudid to avoid addicting complications of IV
   Dilaudid
   .
   3. ESRD: HD yesterday. On T/Th/Sat schedule.  Pt currently undergoing
   HD due to recent ex-lap but was on PD prior to this and would like to
   go back to PD which can be done 3 weeks post-op per discharge summary.
   - HD today
   - renal following
   .
   4. Hx of SVC/brachiocephalic DVT: Pt is subtherapeutic on coumadin.
   Unclear if not currently taking Coumadin although patient states that
   she has been taking all home meds.
   - heparin gtt to bridge to Coumadin
   - Coumadin 5mg PO qday
   .
   5. Anxiety: Likely contributing to medical problems and may be etiology
   of admission.  Although pt states she is taking her current
   medications, does report increased anxiety which can lead to medication
   non-compliance and hypertension.  Pt recently saw psychiatrist who
   started her on Celexa.
   - continue Celexa 20mg PO qday
   - Ativan 1mg PO q8hours PRN
   - psych consult
   .
   6. Anemia: currently at baseline.  Likely related to ESRD.
   - continue to monitor
   .
   7. SLE:
   - continue Prednisone 20mg PO qday
   .
   8. FEN: regular diet, replete lytes PRN
   .
   9. Prophylaxis: Heparin gtt, no need for ulcer prophylaxis at this
   time, bowel regimen
   .
   10. Code Status: FULL
   .
   11. Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-11-24**] 06:00 PM
   Dialysis Catheter - [**2141-11-24**] 10:26 PM
   20 Gauge - [**2141-11-25**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2141-11-26 08:47:00 Physician Attending Progress Note
Chief Complaint: malignant hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Has not has AM meds yet because has not had foof and SBP back up to
   210/130
   Still with headache (had even when BP were normal though)
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Other medications:
   Coumadin, Celexa, Hydral, Nifedipine, Labetalol, Clonidine patch,
   Prednsion, SC heparin, alaskarin, PRN Ativan Dilaudid Hydral Tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-11-26**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 77 (76 - 114) bpm
   BP: 155/89(104) {149/87(102) - 213/130(144)} mmHg
   RR: 13 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    268 mL
                                                                    212 mL
   PO:
             180 mL
   TF:
   IVF:
                                                                    268 mL
                                                                     32 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    350 mL
   Urine:
                                                                    645 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -977 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, slightly facial asymmetry
   notable today with right greater than left facial swelling
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, slightly Distended,
   well healing surgical scar
   Extremities: no edema
   Skin:  Warm
   Neurologic: Attentive, Follows commands, normal strength, EOMI
   Labs / Radiology
   9.3 g/dL
   180 K/uL
   89 mg/dL
   4.5 mg/dL
   25 mEq/L
   5.1 mEq/L
   19 mg/dL
   105 mEq/L
   138 mEq/L
   27.5 %
   3.5 K/uL
        [image002.jpg]
                            [**2141-11-25**]  04:38 AM
                            [**2141-11-26**]  05:21 AM
   WBC
   5.8
   3.5
   Hct
   30.4
   27.5
   Plt
   217
   180
   Cr
   4.5
   TropT
   0.07
   Glucose
   89
   Other labs: PT / PTT / INR:21.6/>150.0/2.1, CK / CKMB /
   Troponin-T:33//0.07, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:4.4 mg/dL
   Microbiology: 2+ PMN, neg culture to date
   Assessment and Plan
 KNOWLEDGE DEFICIT
 INEFFECTIVE COPING
 .H/O DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 CHRONIC PAIN
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   24 yr old with SLE and HTN urgency
   HTN Urgency : Labetolol drip able to wean off and have transitioned to
   home regimen as tolerated with prn hydralazine sliding scale. For HD
   this AM to assist with any component of volume overload.  Last admit
   serum metanephrines pending
   RENAL FAILURE: END STAGE (END STAGE RENAL DISEASE, ESRD). T, TH, Sat HD
   tolerated well.
   Abd pain/indwelling PD cath
   - ascites - no recent PD, but ex-lap [**10-27**] for free air. Feels better
   after 600 cc removed.
   - drain ascites and WBC 180
 seems low but  follow up cx
 no empiric
   ABX for now
   SLE-cont prednisone 20 mg
   Depression -cont Celexa
   SVC thrombosis; cont coumadin with bridging heparin
   Anemia: currently at baseline.  Likely related to ESRD. Continue to
   monitor
   Headache: DDX migraine, dental abscess (has history of this), hx of SVC
   syndrome
   She had a normal head CT on [**2141-11-18**] when she was already having this
   pain so with non focal exam repeat imaging not necessary right now, and
   indeed would need to be MRI. We may come to this but for now I would
   check Panorex for dental abscess and repeat US to look for recrudescent
   clot in SVC which may caise facial swelling and referred pain HA
   Pain: po Dilaudid
   ICU Care
   Nutrition: renal diet
   Glycemic Control:  prn
   Lines: 18 Gauge - [**2141-11-24**] 06:00 PM
   Dialysis Catheter - [**2141-11-24**] 10:26 PM
   20 Gauge - [**2141-11-25**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :call out if stable BP after AM meds
   Total time spent: 35 minutes